### PR TITLE
feat(ErdosProblems): 1084

### LINKED ISSUE #1284: Erdős Problem 1084
### What is the conjecture

https://www.erdosproblems.com/1084

  Let $f_d(n)$ be minimal such that in any collection of $n$ points in $\mathbb{R}^d$, all of distance at least $1$ apart, there are at most $f_d(n)$ many pairs of points which are distance $1$ apart. Estimate $f_d(n)$.

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ishaanxgupta**
This PR adds a formal statement of Erdős Problem 1084 to the FormalConjectures/ErdosProblems directory.

A Lean formalization of Erdős problem 1084, which asks for bounds on the maximum number of pairs of points at distance exactly 1 in a finite set of points in ℝ^d, under the constraint that all pairwise distances are at least 1.

Reference
Erdős Problem 1084: https://www.erdosproblems.com/1084

Closes #1284

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1084.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+-/
+@[category research open, AMS 52]
+theorem erdos_1084 :
+  ∀ d : ℕ,
+    ∃ f : ℕ → ℕ,
+      ∀ s : Finset (EuclideanSpace ℝ (Fin d)),
+        (∀ ⦃x y⦄, x ∈ s → y ∈ s → x ≠ y → dist x y ≥ 1) →
+        ((s.product s).filter
+          (fun p => p.1 ≠ p.2 ∧ dist p.1 p.2 = 1)).card ≤ f s.card := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean:51]: This problem is trivially true: take `f x := x ^ 2`. You will need to state more precise bounds

Comment (ishaanxgupta) [reply FormalConjectures/ErdosProblems/1084.lean:51]: Ya actually I will have to revise the statement to conjecture a non-trivial upper bound, for example the existence of a constant C_d such that the number of unit-distance pairs is at most C_d * n?

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1084.lean:51]: I'm sure there are specific conjectures in the literature. It would be best if you could find them

Comment (ishaanxgupta) [reply FormalConjectures/ErdosProblems/1084.lean:51]: I have revised the statement to a specific, non-trivial conjecture from the literature, namely the n^{4/3} upper bound for unit distances in the plane (Spencer–Szemerédi–Trotter).

File: FormalConjectures/ErdosProblems/1084.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+
+Let `f_2(n)` be the maximum number of pairs of points at distance exactly `1`
+among any set of `n` points in `ℝ^2`, under the condition that all pairwise
+distances are at least `1`.
+
+Estimate the growth of `f_d(n)`.
+
+Status: open.
+-/
+
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean]:
```suggestion
/-!
# Erdős Problem 1084

*Reference:* [erdosproblems.com/1084](https://www.erdosproblems.com/1084)

Let `f_2(n)` be the maximum number of pairs of points at distance exactly `1`
among any set of `n` points in `ℝ^2`, under the condition that all pairwise
distances are at least `1`.

Estimate the growth of `f_d(n)`.

Status: open.
-/

open Finset Real

```

File: FormalConjectures/ErdosProblems/1084.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+Erdős problem 1084.
+
+There exists a constant `C` such that for any finite set `s` of points in `ℝ²`
+with all pairwise distances at least `1`, the number of ordered pairs of distinct
+points in `s` at distance exactly `1` is at most `C * n^{4/3}`, where `n = card s`.
+-/
+@[category research open, AMS 52]
+theorem erdos_1084 :
+  ∃ C : ℝ,
+    0 ≤ C ∧
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean]: This is implied by the rest
```suggestion
```

File: FormalConjectures/ErdosProblems/1084.lean [hunk 4]
```diff
@@ -0,0 +1,55 @@
...
+    ∀ s : Finset (EuclideanSpace ℝ (Fin 2)),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean]:
```suggestion
    ∀ s : Finset ℝ\^2,
```
You will need to open some scope. See the existing formalisations

File: FormalConjectures/ErdosProblems/1084.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+      (∀ ⦃x y⦄, x ∈ s → y ∈ s → x ≠ y → dist x y ≥ 1) →
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean]:
```suggestion
      (s.toSet.Pairwise (1 \le dist \. \.)) →
```

File: FormalConjectures/ErdosProblems/1084.lean [hunk 6]
```diff
@@ -0,0 +1,55 @@
...
+      ((s.product s).filter
+        (fun p => p.1 ≠ p.2 ∧ dist p.1 p.2 = 1)).card 
+        ≤ C * (s.card : ℝ) ^ (4 / 3) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean]:
```suggestion
      #{p \in s.offDiag | dist p.1 p.2 = 1} ≤ C * #s ^ (4 / 3) := by
```
or something like that

File: FormalConjectures/ErdosProblems/1084.lean (hunk 4 above)
Comment (ishaanxgupta) [reply FormalConjectures/ErdosProblems/1084.lean]: I think FormalConjectures.Util.ProblemImports brings in enough mathlib infrastructure that ℝ^2 is available by default. If the build fails I might need to add open scoped RealInnerProductSpace

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1084.lean]: And you also need to type i the unicode. But also you know you can see whether - the build passes locally, right? How do you edit your PR?

Comment (ishaanxgupta) [reply FormalConjectures/ErdosProblems/1084.lean]: Yes, I tested the build locally, it was successful, I made changes in the PR directly through github

File: FormalConjectures/ErdosProblems/1084.lean [hunk 7]
```diff
@@ -0,0 +1,52 @@
...
+There exists a constant `C` such that for any finite set `s` of points in `ℝ²`
+with all pairwise distances at least `1`, the number of ordered pairs of distinct
+points in `s` at distance exactly `1` is at most `C * n^{4/3}`, where `n = card s`.
+-/
+@[category research open, AMS 52]
+theorem erdos_1084 :
+  ∃ C : ℝ,
+    ∀ s : Finset ℝ^2,
+      (s.toSet.Pairwise (fun x y => 1 ≤ dist x y)) →
+      #{p ∈ s.offDiag | dist p.1 p.2 = 1} ≤ C * (#s : ℝ) ^ (4 / 3) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1084.lean]:
```suggestion
    ∃ C : ℝ,
      ∀ s : Finset ℝ^2,
        (s.toSet.Pairwise (fun x y => 1 ≤ dist x y)) →
        #{p ∈ s.offDiag | dist p.1 p.2 = 1} ≤ C * (#s : ℝ) ^ (4 / 3) := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

**Comment by ishaanxgupta** [comment]
@YaelDillies build error was a small syntax issue with the R^2, solved it now.
